US08541422B2
In a 1 L flask, 120 g (0.643 mole) of (R)-2-chloromandelic acid, 480 ml methanol and 4.8 g concentrated sulfuric acid were added. The solution is then heated to reflux for 2 hours and excess methanol is distilled under vacuum. The oily residue was taken in 650 ml chloroform and washed with 240 gm aqueous solution of 10% potassium carbonate and concentrated under vacuum. 124.4 gm of methyl-(R)-2-hydroxy-2-(2-chlorophenyl)acetate was obtained in the form of a colorless oil.

reactant | (R)-2-chloromandelic acid | 0.643 mole, 120 g | ClC1=C([C@H](C(=O)O)O)C=CC=C1 | C8H7ClO3
reactant | sulfuric acid | 4.8 g | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 480 ml | CO | CH4O
product | methyl-(R)-2-hydroxy-2-(2-chlorophenyl)acetate | 124.4 gm | COC([C@@H](C1=C(C=CC=C1)Cl)O)=O | C9H9ClO3
